US07342014B2
Methyl 6-chloro-4-oxo-1,4-dihydroquinoline-2-carboxylate
Dimethyl acetylenedicarboxylate (13.5 ml) was added to a solution of 4-chloroaniline (12.76 g) in methanol (150 ml), and the mixture was heated under reflux for 8 hours. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in diphenyl ether (70 ml), and the solution was heated under reflux at 240° C. for 4 hours. After cooling the reaction mixture, a mixed solvent of hexane and diethyl ether was added, and crystals deposited were collected by filtration and washed to obtain the title compound (11.09 g).

reactant | Dimethyl acetylenedicarboxylate | 13.5 ml | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | 4-chloroaniline | 12.76 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | methanol | 150 ml | CO | CH4O
product | Methyl 6-chloro-4-oxo-1,4-dihydroquinoline-2-carboxylate | 11.09 g | ClC=1C=C2C(C=C(NC2=CC1)C(=O)OC)=O | C11H8ClNO3
